Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Shellfish / OxyContin / Codeine / Acetaminophen / 
morphine
 
Attending: ___.
 
Chief Complaint:
Nausea, vomitting, chest pain
 
Major Surgical or Invasive Procedure:
PICC placement right arm

 
History of Present Illness:
Ms. ___ is a ___ with a past medical history of CHF, Afib, 
COPD, CKD III, RA, HTN, HLD, breast ca, lung ca, and tracheal 
ca, who who presents w/ nausea, vomiting, chest pain and 
lethargy. 

Pt was somnolent on arrival and all history was obtained from 
her son/HCP. At baseline, pt lives at home, she is able to walk 
with a walker. She is A+Ox3. 1d prior pt went to church and ate 
at ___. Shortly thereafter, she developed nausea and 
vomiting. Per family, breathing was labored. Pt also endorsed 
CP, but this is difficult to clarify with family. In addition, 
she endorsed feeling warm and having had diarrhea.  

In the ED, initial VS: T 97.4 (Tm 99.5) P ___ BP 146/101 R 18 
O2 Sat 100% RA. Labs were significant for Cr 2.4, lipase 1250, 
UA negative. RUQ US was unremarkable. EKG showed sinus rhythm at 
8-bpm, LAD, LBBB, unchanged from prior. CTH showed no acute 
anomalies. GI evaluated pt and recommended IVF, NPO, and to hold 
off on CT abdomen. 

On arrival to the MICU, pt is somnolent and not able to respond 
to questions. 
 
Past Medical History:
- CHF ___ echo: EF 40-45%, global dyskinesis, LV 
hypertrophy, RV dilation, dyssyncrhony)
- Afib on coumadin
- COPD
- CKD (baseline creat 2.0-2.1)
- Fibromyalgia/chronic pain syndrome
- Osteoarthritis
- Rheumatoid arthritis, on narcotics agreement
- Asthma 
- Bronchomalacia 
- Chronic rhinosinusitis 
- Hypertension  
- Depression  
- Hyperlipidemia  
- Obesity  
- Migraine  
- GERD  
- Bilateral carpal tunnel syndrome w/ hand weakness  
- Spondylolisthesis of L4-5, radiculopathy w/stenosis  
- Right total shoulder arthroplasty ___  
- Right total knee arthroplasty  
- Left shoulder replacement  
- Breast cancer stage II (T2N0M0), ___: treated with 
lumpectomy, XRT, and CMF. No evidence of recurrent disease.  
- Lung SCC stage IA (T1bN0M0), resected on ___   
- Tracheal cancer diagnosed in ___ s/p chemo and XRT w/ 
complete resolution when imaged in ___ and ___ ___ut 
residual dysphagia s/p dilatation 
 
Social History:
___
Family History:
Mother had breast cancer, died of MI. Father had rectal cancer. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
General- Somolent; able to answer simple questions with 
extensive redirection
HEENT- Mild proptosis; pinpoint pupils  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- Obese; voluntary guarding, mild diffuse ttp  
GU- +foley
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema; s= multiple ___ amputations  
Neuro- Moving all extremities spontaneoulsy; CNII-XII grossly 
intact  

 
Pertinent Results:
ADMISSION LABS:
================

___ 09:50PM   TYPE-ART TEMP-36.9 O2 FLOW-3 PO2-172* PCO2-41 
PH-7.41 TOTAL CO2-27 BASE XS-1 INTUBATED-NOT INTUBA 
COMMENTS-NASAL ___
___ 09:50PM   LACTATE-0.9
___ 09:15PM   GLUCOSE-97 UREA N-53* CREAT-2.0* SODIUM-141 
POTASSIUM-3.6 CHLORIDE-103 TOTAL CO2-22 ANION GAP-20
___ 09:15PM   AMYLASE-704*
___ 09:15PM   CK-MB-4 cTropnT-<0.01
___ 09:15PM   CALCIUM-8.7 PHOSPHATE-3.6 MAGNESIUM-1.6
___ 09:15PM   TRIGLYCER-112
___ 09:15PM   WBC-10.9 RBC-3.59* HGB-12.1 HCT-39.1 MCV-109* 
MCH-33.7* MCHC-30.9* RDW-15.1
___ 09:15PM   NEUTS-88.1* LYMPHS-9.0* MONOS-2.5 EOS-0.4 
BASOS-0.1
___ 09:15PM   PLT COUNT-240
___ 09:15PM   ___ PTT-40.4* ___
___ 08:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 01:46PM   LACTATE-1.9
___ 01:30PM   GLUCOSE-94 UREA N-58* CREAT-2.4* SODIUM-139 
POTASSIUM-3.4 CHLORIDE-97 TOTAL CO2-24 ANION GAP-21*
___ 01:30PM   ALT(SGPT)-39 AST(SGOT)-35 ALK PHOS-83 TOT 
BILI-0.3
___ 01:30PM   LIPASE-1250*
___ 01:30PM   ALBUMIN-4.3
___ 01:30PM   WBC-9.2 RBC-4.15* HGB-14.0 HCT-44.7 MCV-108* 
MCH-33.7* MCHC-31.3 RDW-15.3
___ 01:30PM   NEUTS-84.3* LYMPHS-10.6* MONOS-4.3 EOS-0.2 
BASOS-0.5
___ 01:30PM   PLT COUNT-309
___ 12:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-SM 
___ 12:55PM URINE  RBC-<1 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-<1

=======================
IMAGING:
=======================

Head ___
FINDINGS:  There is no evidence of hemorrhage, edema, mass 
effect, or large vascular territory infarction.  The ventricles 
and sulci are enlarged, consistent with age-related volume loss. 
 This is unchanged from the prior exam.  Periventricular 
confluent white matter hypodensities are consistent with chronic 
small vessel ischemic disease.  There is an unchanged lacunar 
infarct in the left basal ganglia, and either a second lacunar 
infarct or prominent vascular space in the right basal ganglia. 
  
No fracture is identified.  The visualized paranasal sinuses, 
mastoid air 
cells, and middle ear cavities are clear.  The soft tissues are 
unremarkable. 
  
IMPRESSION:  No acute intracranial abnormality.  Unchanged 
age-related volume loss, chronic small vessel ischemic disease, 
and lacunar infarct. 

Chest ___
IMPRESSION: Status post right upper lobe resection with stable 
volume loss in the right lung.  No other cardiopulmonary 
abnormality. 
  
RUQ ultrasound: ___
IMPRESSION:  Normal right upper quadrant ultrasound.  No 
cholelithiasis or cholecystitis. 

 
Brief Hospital Course:
Assessment/Plan:
This is a ___ y/o female with history of CHF, atrial fibrillation 
on Coumadin, CKD, and RA on chronic steroids who presented with 
pancreatitis likely due to doxycycline

#Acute pancreatitis
The patient presented with acute pancreatitis and was breifly in 
the MICU for somnolence. She underwent a RUQ ultrasound without 
evidence of gallstones. Patient denies alcohol use and 
triglcerides were normal. The patient was seen by 
gastroenterology who felt the most likely cause of pancreatitis 
was doxycyline. She was managed conservatively with bowel rest 
and IV fluids. She did not recieve IV narcotics given concerns 
for somnolence (see below). Her pain improved and she was 
tolerating a regular, low fat diet on discharge. GI recommended 
an MRCP on resolution of her current pancreatitis to evaualte 
for underlying malignancy. 

#Toxic metabolic encephalopathy
The patient presented with altered mental status, she was found 
to be very somnolent. She had a Head CT, ABG and infectious work 
up which was negative. Her chronic narcotics were held and she 
improved significantly. She continued to have periods of 
somnolence while on the floor, but was always able to be easily 
aroused and was oriented x3. Her percocet was held and restarted 
at a lower dose on discharge, daily as needed

#Acute renal failure
#Chronic kidney disease stage III
The patient presented with acute renal failure with creatinine 
of 2.4. Likely pre-renal in the setting of vomiting. The 
patient's creatinine trended back to her baseline of 1.5-2. Her 
___ was initally held but was quickly resumed. Lasix was held 
throughout her hospitalization but was resumed on discharge.

#Atrial fibrillation
The patient remained on amiodarone. INR was supratherapeutic on 
admission. Coumain was held until INR returned to the therpeutic 
range and was then resumed at a lower overall dose of 2mg daily. 
INR On discharge was 3.1

#COPD
The patient recent completed a course of doxycycline for a 
possible COPD exacerbation. She was saturating well on room air 
and was continued on Advair, albuterol.

#Hypertension, benign
BP well controlled currently. No changes were made to home 
___.

#Rheumatoid arthritis
Continued prednisone, bactrim prophylaxis

#IV access
Patient had an ___ guided PICC placed for access. This was 
removed prior to discharge.

Transitional issues:
- will need follow up MRCP to rule out underlying malignancy as 
cause of pancreatitis
- NOK/HCP: Son ___ ph: ___
- Code: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amiodarone 200 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID:PRN hard stool 
3. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
4. Furosemide 40 mg PO DAILY 
5. Guaifenesin ER 1200 mg PO Q12H 
6. Ipratropium Bromide Neb 1 NEB IH Q6H 
7. leflunomide 10 mg oral daily 
8. Lidocaine 5% Patch 1 PTCH TD DAILY 
9. Losartan Potassium 25 mg PO DAILY 
10. Metoprolol Succinate XL 200 mg PO DAILY 
11. Montelukast Sodium 10 mg PO DAILY 
12. Multivitamins W/minerals 1 TAB PO DAILY 
13. Nystatin Cream 1 Appl TP BID 
14. Oxycodone-Acetaminophen (5mg-325mg) 2 TAB PO Q6H 
15. PredniSONE 20 mg PO DAILY 
16. Vitamin D 1000 UNIT PO DAILY 
17. esomeprazole magnesium 40 mg oral BID 
18. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
19. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN SOB 
20. Warfarin 3 mg PO DAILY16 
21. Loratadine 10 mg PO DAILY 
22. Ranitidine 300 mg PO DAILY 
23. Senna 17.2 mg PO HS 
24. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 
25. Acetaminophen-Caff-Butalbital 1 TAB PO ONCE 
26. Nystatin Oral Suspension 5 mL PO BID:PRN thrush 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN SOB 
2. Amiodarone 200 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID:PRN hard stool 
4. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
5. Ipratropium Bromide Neb 1 NEB IH Q6H 
6. Lidocaine 5% Patch 1 PTCH TD DAILY 
7. Losartan Potassium 25 mg PO DAILY 
8. Metoprolol Succinate XL 200 mg PO DAILY 
9. Nystatin Cream 1 Appl TP BID 
10. PredniSONE 20 mg PO DAILY 
11. Ranitidine 300 mg PO DAILY 
12. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
13. Vitamin D 1000 UNIT PO DAILY 
14. Warfarin 2 mg PO DAILY16 
15. esomeprazole magnesium 40 mg oral BID 
16. Furosemide 40 mg PO DAILY 
17. leflunomide 10 mg ORAL DAILY 
18. Loratadine 10 mg PO DAILY 
19. Montelukast Sodium 10 mg PO DAILY 
20. Multivitamins W/minerals 1 TAB PO DAILY 
21. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 
22. Acetaminophen-Caff-Butalbital 1 TAB PO ONCE Duration: 1 Dose 

23. Nystatin Oral Suspension 5 mL PO BID:PRN thrush 
24. Senna 17.2 mg PO HS 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute pancreatitis
Acute renal failure
Toxic metabolic encephalopathy (confusion)
COPD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
It was a pleasure taking care of you during your admission to 
___. You were admitted with pancreatitis (inflammation in your 
pancreas) which was likely due to doxycycline. You were treated 
with bowel rest (nothing to eat) and IV fluids and you improved. 
You will need an MRI of your pancreas after you are better.
You were also found to be intermitttently sleepy. This was 
thought to be due to your pain medications. You should not take 
these medications if you are sleepy.

It is important that you follow up with Dr. ___ 
your hospitalization.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___